US06124323
4-(4-Fluorobenzyl)-1-[2-(3-Hydroxyphenoxy)ethyl]piperidine hydrochloride
The title compound was prepared from 4-(4-fluorobenzyl)piperidine hydrochloride (298 mg, 1.30 mmol), 2-(3-benzyloxyphenoxy)ethyl bromide (399 mg, 1.3 mmol) and potassium carbonate (449 mg, 3.2 mmol) in two steps as white-off solid (250 mg): mp 145-147° C. 1H NMR (CD3OD) 1.529 (m, 2 H), 1.821 (d, J=12.9 Hz, 2 H), 2.551 (d, J=6.3 Hz, 2 H), 3.003 (m, 2 H), 3.468 (m, 2 H), 3.541 (m, 2 H), 4.243 (t, J=5.4 Hz, 2 H), 6.369-6.422 (m, 3 H), 6.924-7.034 (m, 3 H), 7.120-7.167 (m, 2 H).

reactant | 4-(4-fluorobenzyl)piperidine hydrochloride | 1.30 mmol, 298 mg | Cl.FC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(3-benzyloxyphenoxy)ethyl bromide | 1.3 mmol, 399 mg | C(C1=CC=CC=C1)OC=1C=C(OCCBr)C=CC1 | C15H15BrO2
reactant | potassium carbonate | 3.2 mmol, 449 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(4-Fluorobenzyl)-1-[2-(3-Hydroxyphenoxy)ethyl]piperidine hydrochloride | Cl.FC1=CC=C(CC2CCN(CC2)CCOC2=CC(=CC=C2)O)C=C1 | InChI=1S/C20H24FNO2.ClH/c21-18-6-4-16(5-7-18)14-17-8-10-22(11-9-17)12-13-24-20-3-1-2-19(23)15-20;/h1-7,15,17,23H,8-14H2;1H
